US04921851
To 100 ml of 3N-hydrochloric acid is added 5.89 g of 6-(2-tert-butoxycarbonylaminoethylthio)imidazo[1,2-b]pyridazine and the mixture is refluxed with stirring for 20 minutes. The solvent is distilled off under reduced pressure and the residue is diluted with 50 ml of toluene and concentrated again under reduced pressure. To the residue is added ether and the resulting powers are collected by filtration and washed with ether, ethanol and ether in the order mentioned to give 5.26 g of 6-(2-aminoethylthio)imidazo[ 1,2-b]pyridazine dihydrochloride as colorless powders.

reactant | hydrochloric acid | Cl | ClH
reactant | 6-(2-tert-butoxycarbonylaminoethylthio)imidazo[1,2-b]pyridazine | 5.89 g | C(C)(C)(C)OC(=O)NCCSC=1C=CC=2N(N1)C=CN2 | C13H18N4O2S
product | 6-(2-aminoethylthio)imidazo[ 1,2-b]pyridazine dihydrochloride | 5.26 g | Cl.Cl.NCCSC=1C=CC=2N(N1)C=CN2 | InChI=1S/C8H10N4S.2ClH/c9-3-6-13-8-2-1-7-10-4-5-12(7)11-8;;/h1-2,4-5H,3,6,9H2;2*1H
